US07189790B2
2,6-Dimethyl-4-bromoiodobenzene (5.04 g, 16.2 mmol) was dissolved in diethyl ether (50 ml). To the solution was then added dropwise a hexane solution of n-butyl lithium (2.6 M, 6.5 ml) at −50° C. The mixture was then stirred at the same temperature for 45 minutes. To the mixture was then added dropwise trimethylsilyl trifluoromethanesulfonate (3.7 ml, 19.4 mmol). The mixture was then stirred at −30° C. for 30 minutes and at room temperature overnight. After the quenching of the reaction with water, the product was then extracted with diethyl ether. The resulting organic phase was then dried over magnesium sulfate. The solvent was then distilled off. The crude product thus obtained was then distilled under reduced pressure using a glass tube oven so that it was purified to obtain 3,5-dimethyl-4-trimethylsilylbromobenzene (3.54 g; yield: 85%).

reactant | 2,6-Dimethyl-4-bromoiodobenzene | 16.2 mmol, 5.04 g | CC1=C(C(=CC(=C1)Br)C)I | C8H8BrI
reactant | hexane | CCCCCC | C6H14
reactant | n-butyl lithium | 2.6 M, 6.5 ml | C(CCC)[Li]
reactant | trimethylsilyl trifluoromethanesulfonate | 19.4 mmol, 3.7 ml | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 3,5-dimethyl-4-trimethylsilylbromobenzene | 3.54 g, yield: 85% | CC=1C=C(C=C(C1[Si](C)(C)C)C)Br | C11H17BrSi
